Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.4101282042299998
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3]#[C:4],4.92645184919
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.77709875816
[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-0.89725883855
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([H:8])[H:9],-3.25583032177
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-6.403664260469999
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.13869426989
[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],1.95519372407
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:10]([H:11])#[C:12][H:13].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],1.44989907447
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3],3.81520051062
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[O:4][H:5],0.160730061952
[C:1]#[C:2][C:3]([H:4])=[C:5]=[O:6]>>[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6],6.07696219832
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.93583180127
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.89980321578
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9]=[C:10][H:11],1.2055462683
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],1.99668909029
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-2.82993151171
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],0.370102129851
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.1986093477700002
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],3.55960821019
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],3.79806794477
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],0.794009853091
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:8][H:9].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7],2.48853889987
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([H:11])[H:12],0.78235249727
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11].[C:9]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:10][H:11],-5.447378843790001
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],1.46303063914
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[H:7],7.78977869988
[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4][H:5])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-6.664149415680001
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1],3.6736327524
